US07459562B2
C) 4-(3-Ethylpyridin-4-yloxy)-3-fluorobenzenamine
A solution of 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridine (80 mg, 0.30 mmol) in 1:1 EtOAc/MeOH (2 mL) was hydrogenated over 10% palladium-carbon (30 mg) for 1 h using H2 from a latex balloon. Pt2O (10 mg) was added to the mixture and the reaction continued for 1 h. The mixture was filtered through Celite® and concentrated in vacuo to give the title compound (50 mg, 63%) as a yellow oil. 1H NMR (DMSO-d6) δ 8.33 (s, 1H), 8.22 (d, 1H, J=5.6 Hz), 6.96 (dd, 1H, J=8.7, 9.1 Hz), 6.50 (dd, 1H, J=2.0, 13.7 Hz), 6.56 (d, 1H, J=5.6 Hz), 6.41 (dd, 1H, J=2.5, 6.1 Hz), 2.69 (q, 2H, J=7.6 Hz), 1.21 (t, 31H, J=7.6 Hz).

reactant | 4-(2-fluoro-4-nitrophenoxy)-3-vinylpyridine | 0.30 mmol, 80 mg | FC1=C(OC2=C(C=NC=C2)C=C)C=CC(=C1)[N+](=O)[O-] | C13H9FN2O3
catalyst | palladium-carbon | 30 mg | [C].[Pd]
solvent | EtOAc MeOH | 2 mL | CCOC(=O)C.CO
product | 4-(3-Ethylpyridin-4-yloxy)-3-fluorobenzenamine | 50 mg, 63% | C(C)C=1C=NC=CC1OC1=C(C=C(C=C1)N)F | C13H13FN2O
